US07858632B2
To a solution of (2-isopropyl-4-methoxy-5-methyl-phenoxy)-acetic acid ethyl ester (4.42 g, 16.6 mmol) in anhydrous 1,2-dimethoxy ethane (60 ml) was added sodium hydride (60% in mineral oil, 3.5 g, 87.5 mmol) at room temperature. After 5 minutes of stirring, ethyl formate (40 ml, 495 mmol) was added. The mixture was heated at 85° C. for 7 hours. After cooling to room temperature, iodomethane was added and stirring was continued overnight. Solvent was concentrated under reduced pressure and the residue was partitioned between ethyl acetate and water. The organic phase was washed with brine and dried over anhydrous sodium sulfate. After removal of drying agent, the organic solution was concentrated under reduced pressure. The residue was purified with silica gel chromatography (10% to 30% ethyl acetate in hexane) to yield 2-(2-isopropyl-4-methoxy-5-methyl-phenoxy)-3-methoxy-acrylic acid ethyl ester as a pale yellow oil (1.19 g, 23%).

reactant | (2-isopropyl-4-methoxy-5-methyl-phenoxy)-acetic acid ethyl ester | 16.6 mmol, 4.42 g | C(C)OC(COC1=C(C=C(C(=C1)C)OC)C(C)C)=O | C15H22O4
reactant | sodium hydride | 87.5 mmol, 3.5 g | [H-].[Na+]
reactant | ethyl formate | 495 mmol, 40 ml | C(=O)OCC | C3H6O2
reactant | iodomethane | IC | CH3I
solvent | 1,2-dimethoxy ethane | 60 ml | COCCOC | C4H10O2
product | 2-(2-isopropyl-4-methoxy-5-methyl-phenoxy)-3-methoxy-acrylic acid ethyl ester | 1.19 g, 23% | C(C)OC(C(=COC)OC1=C(C=C(C(=C1)C)OC)C(C)C)=O | C17H24O5
